US07288553B2
4-Ethylsulfanyl-3-methoxy-3-methyl-but-1-yne
1-Ethylsulfanyl-2-methyl-but-3-yn-2-ol (0.29 g, 2.0 mmol) was added to a mixture of sodium hydride (60% dispersion in mineral oil, 88 mg, 2.2 mmol) in dimethylformamide (5 mL) under argon. Iodomethane (0.12 mL, 2.0 mmol) was then added to the reaction mixture via syringe and the mixture allowed to stir overnight. The mixture was poured onto water and extracted twice with diethyl ether. The diethyl ether extracts were washed with water and brine, dried over magnesium sulfate, filtered, and evaporated to yield a yellow oil. The oil was purified by column chromatography eluting with dichloromethane to yield the title compound as a clear liquid.

reactant | 1-Ethylsulfanyl-2-methyl-but-3-yn-2-ol | 2.0 mmol, 0.29 g | C(C)SCC(C#C)(O)C | C7H12OS
reactant | sodium hydride | 2.2 mmol, 88 mg | [H-].[Na+]
reactant | Iodomethane | 2.0 mmol, 0.12 mL | IC | CH3I
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-Ethylsulfanyl-3-methoxy-3-methyl-but-1-yne | C(C)SCC(C#C)(C)OC | C8H14OS
